US06627651B1
To a mixture of 3-(4-propoxyphenyl)-1-propanol (735 mg) and THF (20 ml) were added at 0° C. triethylamine (1.58 ml) and methanesulfonyl chloride (0.44 ml). The resulting mixture was stirred at 0° C. for 20 minutes and at room temperature for 20 minutes. The reaction mixture was diluted with ethyl acetate and was washed respectively with water and an aqueous saturated solution of sodium chloride, and the organic layer was dried with anhydrous magnesium sulfate. The resulting organic layer was evaporated under reduced pressure to remove the solvent to obtain 3-(4-propoxyphenyl)propyl methanesulfonate (1.02 g) as a colorless oil.

reactant | 3-(4-propoxyphenyl)-1-propanol | 735 mg | C(CC)OC1=CC=C(C=C1)CCCO | C12H18O2
reactant | THF | 20 ml | C1CCOC1 | C4H8O
reactant | triethylamine | 1.58 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.44 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(4-propoxyphenyl)propyl methanesulfonate | 1.02 g | CS(=O)(=O)OCCCC1=CC=C(C=C1)OCCC | C13H20O4S
